US05232946
e) 4'-[2-[N-(2-(3-Chloro-phenyl)-2-hydroxy-ethyl)amino]propyl]-4-methoxy-biphenyl
Yield: 20.1% of theory, Prepared from 2-(3-chloro-phenyl)-2-hydroxy-ethylamine and 4'-acetonyl-4-methoxy-biphenyl.

reactant | 2-(3-chloro-phenyl)-2-hydroxy-ethylamine | ClC=1C=C(C=CC1)C(CN)O | C8H10ClNO
reactant | 4'-acetonyl-4-methoxy-biphenyl | C(C(=O)C)C1=CC=C(C=C1)C1=CC=C(C=C1)OC | C16H16O2
product | 4'-[2-[N-(2-(3-Chloro-phenyl)-2-hydroxy-ethyl)amino]propyl]-4-methoxy-biphenyl | Yield: 20.1% | ClC=1C=C(C=CC1)C(CNC(CC1=CC=C(C=C1)C1=CC=C(C=C1)OC)C)O | C24H26ClNO2
